US05053544
4-[2-(Trans-4-n-pentylcyclohexyl)ethyl]cyclohexanone (112.4 g), phenol (152.7 g) and calcium chloride (90.1 g) were mixed, followed by gradually dropwise adding conc. hydrochloric acid (68 ml) with vigorous stirring at room temperature, agitating the mixture for 30 minutes after completion of the dropwise addition, further allowing the resulting material to stand at room temperature for 24 hours, adding hot water (0.5 l) and ethyl acetate (2 l) to dissolve it on heating, washing with saturated NaCl aqueous solution using hot water at 40° to 50° C., drying over Na2SO4, filtering, concentrating and recrystallizing the resulting concentrate from a mixed solvent of ethyl alcohol and methyl alcohol (87:13) (SOLMIX® made by Nihon Kasei Co., Ltd.) to obtain white crystals of 1,1-bis(4-hydroxyphenyl)-4-[2-(trans-4-n-pentylcyclohexyl)ethyl]cyclohexane (78.8 g) as a diol compound of the present invention. M.P.: 203.4-204.4° C.

reactant | 4-[2-(Trans-4-n-pentylcyclohexyl)ethyl]cyclohexanone | 112.4 g | C(CCCC)[C@@H]1CC[C@H](CC1)CCC1CCC(CC1)=O | C19H34O
reactant | phenol | 152.7 g | C1(=CC=CC=C1)O | C6H6O
reactant | calcium chloride | 90.1 g | [Cl-].[Ca+2].[Cl-]
reactant | hydrochloric acid | 68 ml | Cl | ClH
solvent | ethyl acetate | 2 l | C(C)(=O)OCC | C4H8O2
solvent | water | 0.5 l | O | H2O
product | 1,1-bis(4-hydroxyphenyl)-4-[2-(trans-4-n-pentylcyclohexyl)ethyl]cyclohexane | 78.8 g | OC1=CC=C(C=C1)C1(CCC(CC1)CC[C@@H]1CC[C@H](CC1)CCCCC)C1=CC=C(C=C1)O | C31H44O2
